US03962230
To a solution of p-hydroxymethylphenylglycine (8.0 g, 0.044 mole) and triethylamine (8.8 g., 0.087 mole) in 160 ml water was added t-butoxycarbonyl azide (6.95 g., 0.049 mole) dissolved in 120 ml tetrahydrofuran. After stirring overnight at room temperature, the reaction mixture was washed twice with 200 ml. portions of ether. The aqueous layer was covered with ether and in an ice bath was acidified to pH 3-3.5 with 3N hydrochloric acid. The acidic solution was extracted three times with 200 ml portions of ether. The combined ether layers were washed with saturated sodium chloride solution, dried, and the ether evaporated under reduced pressure. The resulting oil was triturated with chloroform-hexane and the solid filtered off to give N-t-butoxycarbonyl-p-hydroxymethylphenylglycine (7.74 g, 63% yield), m.p. 139°-141.5° (dec.).

reactant | p-hydroxymethylphenylglycine | 0.044 mole, 8.0 g | OCC1=CC=C(C=C1)NCC(=O)O | C9H11NO3
reactant | triethylamine | 0.087 mole, 8.8 g | C(C)N(CC)CC | C6H15N
reactant | t-butoxycarbonyl azide | 0.049 mole, 6.95 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | water | 160 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-p-hydroxymethylphenylglycine | 7.74 g, 63% yield | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=C(C=C1)CO | C14H19NO5
